US08236806B2
1-(2-fluorophenyl)-4-(3-(1-benzyl-3-propyl-1H-pyrazol-5-yl)propyl)piperazine (Compound 173)
86 mg (84.5%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-benzyl-3-propyl-1H-pyrazol-5-yl)propanal (62mg, 0.242 mmol), 1-(2-fluorophenyl)piperazine (76 mL, 0.484 mmol), and NaBH(OAc)3 (198 mg, 0.936 mmol).

reactant | 3-(1-benzyl-3-propyl-1H-pyrazol-5-yl)propanal | 0.242 mmol, 62mg | C(C1=CC=CC=C1)N1N=C(C=C1CCC=O)CCC | C16H20N2O
reactant | 1-(2-fluorophenyl)piperazine | 0.484 mmol, 76 mL | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | NaBH(OAc)3 | 0.936 mmol, 198 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(2-fluorophenyl)-4-(3-(1-benzyl-3-propyl-1H-pyrazol-5-yl)propyl)piperazine | FC1=C(C=CC=C1)N1CCN(CC1)CCCC1=CC(=NN1CC1=CC=CC=C1)CCC | C26H33FN4
